US05597978
A. Preparation of 2,3-Bischloromethyl-1,4-dichloro-2,3-epoxybutane
A reaction flask was charged with 145 ml of methylene chloride, chilled in an ice bath, and placed under a positive nitrogen atmosphere. Trifluoroacetic anhydride 51.9 g (0.247 mole) was added in one portion when the pot temperature was 10° C. Hydrogen peroxide solution (50%) 6.9 g (0.101 mole) was then added in several portions. The exotherm raised the pot temperature to 32° C. The reaction mixture was then chilled to 80° C. A solution of 2,3-bischloromethyl-1,4-dichloro-2-butene 5.6 g (25.6 m moles) in methylene chloride 30 ml was added dropwise over a twenty-minute period. The resulting reaction mixture was warmed to ambient temperature for three hours and refluxed for five hours.

reactant | Trifluoroacetic anhydride | 0.247 mole, 51.9 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Hydrogen peroxide | 0.101 mole, 6.9 g | OO | H2O2
reactant | 2,3-bischloromethyl-1,4-dichloro-2-butene | 5.6 g | ClCC(CCl)=C(CCl)CCl | C6H8Cl4
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 145 ml | C(Cl)Cl | CH2Cl2
product | 2,3-Bischloromethyl-1,4-dichloro-2,3-epoxybutane | ClCC1(CCl)C(CCl)(O1)CCl | C6H8Cl4O
